US06673800B2
Preparation of 1-{4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butyl}-4-(2-ethoxyphenyl)piperazine
4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butanal (25.1 mg, 0.090 mmol), 1-(2-ethoxyphenyl)piperazine hydrochloride (20.0 mg, 0.082 mmol), molecular sieve (5 beads), NaBH(OAc)3 (52.4 mg, 0.247 mmol) and diisopropylethylamine (26.9 L, 0.082 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 23.1 mg (66.7%) of the target compound was obtained.

reactant | 4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butanal | 0.090 mmol, 25.1 mg | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCC=O | C15H19NO4
reactant | 1-(2-ethoxyphenyl)piperazine hydrochloride | 0.082 mmol, 20.0 mg | Cl.C(C)OC1=C(C=CC=C1)N1CCNCC1
reactant | NaBH(OAc)3 | 0.247 mmol, 52.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | diisopropylethylamine | 0.082 mmol, 26.9 L | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butyl}-4-(2-ethoxyphenyl)piperazine | 23.1 mg, 66.7% | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCCN1CCN(CC1)C1=C(C=CC=C1)OCC | C27H37N3O4
